US04845107
Preparation of N-(2-Methoxy-5-pyridyl)-chloroacetamide hydrochloride
Chloroacetyl chloride (8.0 ml, 0.10 mol) was added over a period of 10 minutes with cooling (dry ice bath) to a solution of 5-amino-2-methoxypyridine (11 ml, 0.10 mol) and ether (100 ml). After one hour the reaction wsa filtered and the solid collected and washed with ether to give 10.7 g of the title compound, m.p. 155°-160° C. The title product was identified by IR, NMR and MS analysis.

reactant | Chloroacetyl chloride | 0.10 mol, 8.0 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | dry ice | C(=O)=O | CO2
reactant | 5-amino-2-methoxypyridine | 0.10 mol, 11 ml | NC=1C=CC(=NC1)OC | C6H8N2O
solvent | ether | 100 ml | CCOCC | C4H10O
product | N-(2-Methoxy-5-pyridyl)-chloroacetamide hydrochloride | 10.7 g | Cl.COC1=NC=C(C=C1)NC(CCl)=O | InChI=1S/C8H9ClN2O2.ClH/c1-13-8-3-2-6(5-10-8)11-7(12)4-9;/h2-3,5H,4H2,1H3,(H,11,12);1H
